US04570000
The starting material may be prepared as follows. A mixture of 1,2,4-triazole (5 g.) and 4-methyl-1,3-dioxolan-2-one was heated at 150° for 18 hours. Concentrated aqueous hydrochloric acid (8 ml.) was added dropwise to the ice-cooled mixture and the mixture was washed with chloroform. The aqueous phase was neutralised with aqueous potassium carbonate solution and extracted with chloroform, and the chloroform extract was dried and evaporated to dryness to give 1-(2-hydroxypropyl)-1,2,4-triazole (7.8 g.) which was characterised as the hydrogen oxalate, m.p. 110°-112° (after crystallisation from EtOH).

reactant | 1,2,4-triazole | 5 g | N1N=CN=C1 | C2H3N3
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | 4-methyl-1,3-dioxolan-2-one | CC1OC(OC1)=O | C4H6O3
product | 1-(2-hydroxypropyl)-1,2,4-triazole | 7.8 g | OC(CN1N=CN=C1)C | C5H9N3O
